US07626021B2
2-(2-difluoromethoxy-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (208 mg, 0.77 mmol), 5-bromo-3-iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine (350 mg, 0.77 mmol), 1,1′-bis(diphenylphosphino)ferrocenepalladium(II)-dichloride dichloromethane adduct (28 mg, 0.035 mmol) and aqueous solution of sodium carbonate (2 M, 0.77 mL) were suspended in anhydrous THF (7 mL) and acetonitrile (7 mL) under an atmosphere of nitrogen. The mixture was stirred at 60° C. for 12 h. The cooled mixture was applied to a Varian Chemelut cartridge and eluted with ethyl acetate. Purification by flash silica gel chromatography using a gradient of ethyl acetate and hexanes afforded 355 mg (0.75 mmol, 95%) of 5-bromo-3-(2-difluoromethoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine as a white solid. MS: m/z 471 [MH+] which was directly used in the next step.

reactant | 2-(2-difluoromethoxy-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.77 mmol, 208 mg | FC(OC1=C(C=CC=C1)B1OC(C(O1)(C)C)(C)C)F | C13H17BF2O3
reactant | 5-bromo-3-iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine | 0.77 mmol, 350 mg | BrC=1C=C2C(=NC1)N(N=C2I)COCC[Si](C)(C)C | C12H17BrIN3OSi
reactant | sodium carbonate | 2 M, 0.77 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetonitrile | 7 mL | C(C)#N | C2H3N
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 5-bromo-3-(2-difluoromethoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine | 0.75 mmol, 355 mg, 95% | BrC=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC(F)F)COCC[Si](C)(C)C | C19H22BrF2N3O2Si
